US03974153
(6R,7R)-3-Carbamoyloxymethyl-7-[2-methoxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic Acid (syn isomer)
Following the procedure of Example 2, the title compound (888 mg., 50%) was prepared from (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid (1.09g., 4 mmole) and sodium 2-methoxyimino-2-(thien-2-yl)acetate (syn -isomer) (923mg., 4.8 mmole). Its properties are: m.p. 157° to 163° , [α]D20° + 57.3° (c 1.0 in dioxan), RPAC 0.8* Solvent system A*,λmax. (pH6 buffer) 262.5 nm (ε 15,550), and inflexion at 235 nm (ε 10,350), τ (DMSO-d6) 0.20 (d, J 8 Hz, NH), 2.29 (dd, J 2 and 5 Hz, thienyl C5 -H), 2.7 to 2.9 (m, thienyl C3 -H and C4 -H), 3.40 (s, CONH2), 4.13 (dd, J 5 and 8 Hz, C7 -H), 4.75 (d, J 5 Hz, C6 -H), 5.01 and 5.34 (AB-q, J 13 Hz, C3 -CH2), 6.08 (s, NOCH3), and 6.42 (collapsed AB-q, C2 -H2), νmax. (Nujol) 3700 to 2100 (CO2H), 3480, 3440, 3365, and 3255 (NH and NH2), 1760 (azetidin-2-one), 1722 (CO2H), 1709 (OCONH2) and 1652 and 1530 cm-1 (amide).

reactant | (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid | 4 mmole, 1.09g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
reactant | sodium 2-methoxyimino-2-(thien-2-yl)acetate | 4.8 mmole, 923mg | CON=C(C(=O)[O-])C=1SC=CC1.[Na+]
reactant | azetidin-2-one | N1C(CC1)=O | C3H5NO
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (6R,7R)-3-Carbamoyloxymethyl-7-[2-methoxyimino-2-(thien-2-yl)acetamido]ceph-3-em-4-carboxylic Acid | 888 mg, 50% | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C=2SC=CC2)=NOC)=O)=O | C16H16N4O7S2
